US07868188B2
N-{5-[2-(Acetylamino)-4-methyl-1,3-thiazol-5-yl]-2-chloro pyridin-3-yl}-N-(phenylsulfonyl)acetamide
N-{5-[6-Chloro-5-(phenylsulfonylamino)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl)acetamide was dissolved in THF. Triethylamine (0.113 mL, 0.811 mmol) was added. The solution was placed in an ice-bath and acetyl chloride (0.058 mL, 0.81 mmol) was added dropwise. The mixture was stirred at room temperature for 2 hours and then evaporated. Water and ethyl acetate were added. The organic phase was dried with magnesium sulfate, filtered and evaporated. The reaction product was purified by preparative HPLC (Method A) to give the title product (retention time 9.2 minutes) in 91% yield; 1H NMR Spectrum: (DMSOd6) 12.33 (1H, s); 8.69 (1H, d); 8.24 (1H, d); 8.06-8.00 (2H, m); 7.82 (1H, t); 7.72-7.67 (2H); 2.42 (3H, s); 2.17 (3H, s); 1.96 (3H, s); Mass Spectrum: M+H+ 465 and 467.

reactant | N-{5-[6-Chloro-5-(phenylsulfonylamino)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl)acetamide | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)NS(=O)(=O)C1=CC=CC=C1 | C17H15ClN4O3S2
reactant | Triethylamine | 0.811 mmol, 0.113 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.81 mmol, 0.058 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | C1CCOC1 | C4H8O
product | N-{5-[2-(Acetylamino)-4-methyl-1,3-thiazol-5-yl]-2-chloro pyridin-3-yl}-N-(phenylsulfonyl)acetamide | 91% yield | C(C)(=O)NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)N(C(C)=O)S(=O)(=O)C1=CC=CC=C1 | C19H17ClN4O4S2
